US06001849
13b. 2-(1-BOC-2-(S)-pyrrolidinyl)-5-chlorofuro[2,3-b]pyridine
A 3.07 g (12 mmol) sample of 5-chloro-3-iodo-2-pyridinol, from step 13a above, was dissolved in 10 mL of DMF, and (Ph3P)2PdCl2 (0.39 g, 0.5 mmol), CuI (0.38 g, 1.98 mmol) and triethylamine (1.7 mL, 12 mmol) were added. The mixture was stirred under N2 at room temperature for 1 hour, then 1.95 g (10 mmol) of 1-BOC-2-(S)-ethynylpyrrolidine, from Example 1c above, dissolved in 5 mL of DMF, was added carefully. The reaction mixture was stirred at 60° C. for 16 hours, cooled to room temperature, diluted with ether and washed with 50% brine. The organic layer was dried over MgSO4 and concentrated. The residue was chromatographed on silica gel, eluting with 100:0 to 50:50 hexane:EtOAc to give 1.55 g of title compound: MS m/z: 323 (M+H)+.

reactant | 5-chloro-3-iodo-2-pyridinol | ClC=1C=C(C(=NC1)O)I | C5H3ClINO
reactant | triethylamine | 12 mmol, 1.7 mL | C(C)N(CC)CC | C6H15N
reactant | 1-BOC-2-(S)-ethynylpyrrolidine | 10 mmol, 1.95 g | C(=O)(OC(C)(C)C)N1[C@@H](CCC1)C#C | C11H17NO2
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | ether | CCOCC | C4H10O
catalyst | (Ph3P)2PdCl2 | 0.5 mmol, 0.39 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 1.98 mmol, 0.38 g | [Cu]I
product | 2-(1-BOC-2-(S)-pyrrolidinyl)-5-chlorofuro[2,3-b]pyridine | 1.55 g | C(=O)(OC(C)(C)C)N1[C@@H](CCC1)C1=CC=2C(=NC=C(C2)Cl)O1 | C16H19ClN2O3
